US06077853
4-Cyano-3-phenethyloxy-benzoic acid methyl ester
4-cyano-3-hydroxybenzoic acid methyl ester, Example 34, Step 3 (300 mg, 1.7 mmol) was dissolved in DMF (8.5 ml) and treated with phenethylchloride (224 μl, 1.7 mmol). Cs2CO3 (610 mg, 1.87 mmol) was then added and the reaction mixture stirred at room temp. for 16 hours. The mixture was filtered and washed with DMF(3×10 mL). The solvent was removed in vacuo and the residue was purified by flash chromatography (10% EtOAc/Hexane) to yield the desired product.

reactant | 4-cyano-3-hydroxybenzoic acid methyl ester | COC(C1=CC(=C(C=C1)C#N)O)=O | C9H7NO3
reactant | phenethylchloride | 1.7 mmol, 224 μl | C(CC1=CC=CC=C1)Cl | C8H9Cl
reactant | Cs2CO3 | 1.87 mmol, 610 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 8.5 ml | CN(C)C=O | C3H7NO
product | 4-Cyano-3-phenethyloxy-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)C#N)OCCC1=CC=CC=C1)=O | C17H15NO3
